US08609610B2
Fmoc-Phe(4-NHBoc)-Leu-OMe (83).
Fmoc-Phe(4-NHBoc)-OH (210 mg, 418 μmol, 1 equiv.) was dissolved in DCM and HCl.H-Leu-OMe (77 mg, 460 μmol, 1.1 equiv.), HBTU (190 mg, 502 μmol, 1.2 equiv.) and DiPEA (242 μl, 1.46 mmol, 3.5 equiv.) were added and the mixture stirred for 1 hour. after which it was washed with 1M HCl (2×), sat. aq. NaHCO3 (4×) and brine and dried over MgSO4. Column chromatography (10% acetone:PE->20% acetone:PE) yielded the title compound (206 mg, 294 μmol, 70%). 1H NMR (400 MHz, CDCl3): δ ppm 7.76 (d, J=7.5 Hz, 2H), 7.54 (t, J=6.9 Hz, 2H), 7.39 (t, J=7.4 Hz, 2H), 7.35-7.20 (m, 4H), 7.11 (d, J=7.1 Hz, 2H), 6.54 (s, 1H), 6.29 (d, J=6.6 Hz, 1H), 5.44 (d, J=7.2 Hz, 1H), 4.55 (td, J=8.4, 5.4 Hz, 1H), 4.41 (dd, J=10.3, 7.2 Hz, 1H), 4.32 (s, 1H), 4.18 (t, J=6.9 Hz, 1H), 3.68 (s, 3H), 3.15-2.94 (m, 2H), 1.65-1.39 (m, 3H), 1.51 (s, 9H), 0.97-0.78 (m, 6H). 13C NMR (101 MHz, CDCl3): δ ppm 172.74, 170.69, 155.89, 152.64, 143.67, 143.60, 141.16, 137.31, 130.58, 129.83, 127.64, 127.01, 124.98, 119.88, 118.55, 80.41, 67.11, 55.88, 52.17, 50.75, 46.95, 41.31, 37.78, 28.25, 24.63, 22.58, 21.81.

reactant | Fmoc-Phe(4-NHBoc)-OH | 418 μmol, 210 mg, 1 equiv. | N([C@@H](CC1=CC=C(C=C1)NC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C29H30N2O6
reactant | H-Leu-OMe | 460 μmol, 77 mg, 1.1 equiv. | N[C@@H](CC(C)C)C(=O)OC | C7H15NO2
reactant | HBTU | 502 μmol, 190 mg, 1.2 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DiPEA | 1.46 mmol, 242 μl, 3.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | HCl | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | Fmoc-Phe(4-NHBoc)-Leu-OMe | 294 μmol, 206 mg, 70% | N([C@@H](CC1=CC=C(C=C1)NC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C36H43N3O7
